US07776856B2
119: 2-{4-[2-(1H-Indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-ethanol
Via 2-[4-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl) -piperazin-1-yl]-ethanol, prepared from N-(2-hydroxyethyl)piperazine (commercially available).

reactant | 2-[4-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl) -piperazin-1-yl]-ethanol | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)CCO)N2CCOCC2 | C17H24ClN5O2S
reactant | N-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | 2-{4-[2-(1H-Indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-ethanol | N1C=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)CCO)N2CCOCC2 | C25H30N6O2S
